US07439393B2
ii) 2-[2-(6-Bromo-hexyloxy)-ethoxymethyl]-1,3-dichloro-benzene
50% aq NaOH (1.89 L), 2-(2,6-dichlorobenzyloxy)ethanol (473.2 g), 1,6-dibromohexane (2.44 kg, 5 eq) and tetrabutylammonium bromide (34.1 g, 5 mol %) in toluene (1.89 L) was heated to 55-60° C. for 8-20 h. On cooling water (558 mL) and toluene (558 mL) were added. The aqueous phase was separated and diluted with water (1 L) then back extracted with toluene (1.1 L). The combined toluene extracts were washed twice with water (2.2 L), then evaporated to dryness on a rotary evaporator. The excess 1,6-dibromohexane was removed using a wiped film evaporator, and the resulting crude product chromatographed on silica (5 kg Biotage), eluting with 5% ethyl acetate in petrol 60/80, to give the title compound (503.2 g)-LC RT=7.0 min.

reactant | NaOH | 1.89 L | [OH-].[Na+]
reactant | 2-(2,6-dichlorobenzyloxy)ethanol | 473.2 g | ClC1=C(COCCO)C(=CC=C1)Cl | C9H10Cl2O2
reactant | 1,6-dibromohexane | 2.44 kg, 5 eq | BrCCCCCCBr | C6H12Br2
reactant | water | 558 mL | O | H2O
catalyst | tetrabutylammonium bromide | 34.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 1.89 L | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 558 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[2-(6-Bromo-hexyloxy)-ethoxymethyl]-1,3-dichloro-benzene | 503.2 g | BrCCCCCCOCCOCC1=C(C=CC=C1Cl)Cl | C15H21BrCl2O2
